US09102692B2
[5-Amino-1-(6-fluoro-2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1-benzenesulfonyl-1H-indol-2-yl) methanone (114 mg, 0.22 mmol) was dissolved in isopropanol (2.2 ml), and an aqueous solution of 1 M sodium hydroxide (2.2 ml) was added thereto. The resulting mixture was heated at 90° C. with stirring under a nitrogen atmosphere for two hours. After the reaction mixture was cooled to room temperature, water and a saturated aqueous solution of sodium dihydrogen phosphate were added thereto. The product was extracted with ethyl acetate. The organic layer was isolated, washed with an saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (amino silica gel; dichloromethane/methanol=100/5) to give [5-amino-1-(6-fluoro-2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1H-indol-2-yl) methanone as a yellow solid (75 mg, 89.8%).

reactant | [5-Amino-1-(6-fluoro-2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1-benzenesulfonyl-1H-indol-2-yl) methanone | 0.22 mmol, 114 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1F)C(=O)C=1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=CC=C1 | C26H19FN6O3S
reactant | sodium hydroxide | 1 M, 2.2 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | isopropanol | 2.2 ml | C(C)(C)O | C3H8O
product | [5-amino-1-(6-fluoro-2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1H-indol-2-yl) methanone | 75 mg, 89.8% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1F)C(=O)C=1NC2=CC=CC=C2C1 | C20H15FN6O
